US09260394B2
Benzaldehyde (406 μl, 4 mmol), acetone (294 μl, 4 mmol), malononitrile (264 mg, 4 mmol) e ammonium acetate (462 mg, 6 mmol) were placed in a microwave tube and irradiated with microwaves (Solvent: none; Power: 150 W; Ramp time: 5 min; Heating time: 10 min; Temperature: 100° C.; Pressure: 175 psi; Stirring: on; Cooling: on). At the end of the microwave irradiation cycle, the solvent was removed under reduced pressure. The crude product was purified by flash chromatography on silica gel (petroleum ether/ethyl acetate=90/10) to obtain 2-amino-4-phenyl-6-methylnicotinonitrile in 40% yield.

reactant | Benzaldehyde | 4 mmol, 406 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetone | 4 mmol, 294 μl | CC(=O)C | C3H6O
reactant | malononitrile | 4 mmol, 264 mg | C(CC#N)#N | C3H2N2
reactant | ammonium acetate | 6 mmol, 462 mg | C(C)(=O)[O-].[NH4+]
product | 2-amino-4-phenyl-6-methylnicotinonitrile | 40% yield | NC1=C(C#N)C(=CC(=N1)C)C1=CC=CC=C1 | C13H11N3
